US07943774B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (I-98)
Under argon, 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (I-86, 525 mg) is, at −78° C., dissolved in tetrahydrofuran (10 ml), and lithium hexamethyldisilazane (1M in hexane, 1.40 ml) is added dropwise. After 10 min, trimethylsilyl chloride (179 mg) is added dropwise. After 30 minutes of stirring, saturated ammonium chloride solution is added and the mixture is extracted with ethyl acetate. The organic extracts are dried over sodium sulphate and concentrated under reduced pressure. The residue is purified chromatographically. This gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (540 mg).

reactant | 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | 525 mg | C(#C)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H17F3N4OS
reactant | lithium hexamethyldisilazane | 1M, 1.40 ml | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | trimethylsilyl chloride | 179 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C#C[Si](C)(C)C)C(F)(F)F | C20H25F3N4OSSi
